US04153796
4.25 g. of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]-pyridine-5-carbonitrile (0.02 mol.) are added to 21 ml. of concentrated sulfuric acid. The mixture is stirred at room temperature for 3 days. Then 200 ml. of ice-water are introduced, while cooling with ice-water, and the mixture is allowed to stand overnight in a refrigerator. 2.04 g. (46%) of pure 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]-pyridine-5-carboxamide are obtained, m.p. 192°-193°.

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]-pyridine-5-carbonitrile | 0.02 mol | ClC1=C2C(=NC=C1C#N)N(N=C2)CC | C9H7ClN4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]-pyridine-5-carboxamide | 46% | ClC1=C2C(=NC=C1C(=O)N)N(N=C2)CC | C9H9ClN4O
